US05480580
In 50 ml of 7 wt. % hydrochloric acid methanol solution was dissolved 1.18 g of β-hydroxyisovaleric acid, and an reaction was allowed to proceed at room temperature overnight. The solvent was removed from the solution as reacted by distillation under a reduced pressure to obtain 1.30 g of crude methyl β-hydroxyisovalerate. The crude methyl β-hydroxyisovalerate was dissolved in diethyl ether, and 0.91 g of 3,4-dihydro-2H-pyran and a catalytic amount of p-toluenesulfonic acid were added thereto. Stirring was continued at room temperature overnight for reaction. The resultant reaction mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with water and dried over magnesium sulfate. The solvent was removed from the dried reaction mixture by distillation under a reduced pressure to obtain 1.98 g of crude methyl β-dihydropyranyloxyisovalerate.

reactant | methyl β-hydroxyisovalerate | OC(CC(=O)OC)(C)C | C6H12O3
reactant | 3,4-dihydro-2H-pyran | 0.91 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl β-dihydropyranyloxyisovalerate | 1.98 g | O1C(CCC=C1)OC(CC(=O)OC)(C)C | C11H18O4
